US04985444
A mixture of 3-(N,N-dimethylamino)-2-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylaldehyde (0.70 g), hydrazine mono hydrate (0.18 g) and ethanol (7 ml) was refluxed for 4 hours. To the reaction mixture was added water (12 ml), and stirred under ice-cooling. The precipitates were collected and recrystallized from a mixture of ethanol and water to give 3-(4-pyrazolyl)-2-phenylpyrazolo[1,5-a]pyridine (0.51 g).

reactant | 3-(N,N-dimethylamino)-2-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylaldehyde | 0.70 g | CN(C)C=C(C=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H17N3O
reactant | hydrazine mono hydrate | 0.18 g | O.NN
reactant | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
product | 3-(4-pyrazolyl)-2-phenylpyrazolo[1,5-a]pyridine | 0.51 g | N1N=CC(=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C16H12N4
